US04906621
To a mixture of 49 g of ethyl N-(ethoxycarbonylmethyl)-β-alaninate and 30 ml of water cooled to -10° is added dropwise 27.6 ml of ethyl chloroformate followed by a solution of 12.7 g of sodium carbonate in 50 ml of water. The mixture is warmed to room temperature then heated at 55° for 50 minutes. The mixture is cooled, extracted with toluene, the extract is washed with 2N hydrochloric acid and water. The extract is dried over sodium sulfate, filtered, concentrated and distilled in vacuo to yield ethyl N-(ethoxycarbonylmethyl)-N-(ethoxycarbonyl)-β-alaninate.

reactant | ethyl N-(ethoxycarbonylmethyl)-β-alaninate | 49 g | C(C)OC(=O)CNCCC(=O)OCC | C9H17NO4
reactant | ethyl chloroformate | 27.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium carbonate | 12.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | ethyl N-(ethoxycarbonylmethyl)-N-(ethoxycarbonyl)-β-alaninate | C(C)OC(=O)CN(CCC(=O)OCC)C(=O)OCC | C12H21NO6
